US07538123B2
(3) Synthesis of benzyl 4-(6-carbamoyl-1H-indol-1-yl)piperidin-1-carboxylate
75.0 g of 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylic acid was dissolved in 620 ml of tetrahydrofuran. Thereafter, 38.6 g of 1,1′-carbonylbis-1H-imidazole was added thereto. The reaction solution was stirred at room temperature for 1.5 hours, and 134 ml of a 28% ammonium water was then added thereto. After completion of the reaction, the reaction solution was concentrated under a reduced pressure, and then extracted with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution and a saturated ammonium chloride aqueous solution. Tetrahydrofuran was added to the separated organic layer, and a partially solidified subject compound was dissolved therein, followed by drying over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The solidified subject compound was collected by filtration. The thus collected subject compound was suspended in tetrahydrofuran, and the mixture was heated, followed by filtration. The thus collected subject compound was then suspended in a mixed solvent consisting of tetrahydrofuran and methanol, and the obtained mixture was heated, followed by filtration. The generated filtrates were gathered and concentrated, and thus, the subject compound was obtained in the same above manner. The total amount of the subject compounds was 64.8 g.

reactant | 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylic acid | 75.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)O | C22H22N2O4
reactant | 1,1′-carbonylbis-1H-imidazole | 38.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium water | O.[NH4+]
solvent | tetrahydrofuran | 620 ml | O1CCCC1 | C4H8O
product | benzyl 4-(6-carbamoyl-1H-indol-1-yl)piperidin-1-carboxylate | C(N)(=O)C1=CC=C2C=CN(C2=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H23N3O3
